US09403798B2
tert-Butyl (3R,4R)-3-(dibenzylamino)-4-flouropyrrolidine-1-carboxylate
To a dichloromethane solution (8.7 mL) of tert-butyl (3R,4R)-3-(dibenzylamino)-4-hydroxypyrrolidine-1-carboxylate (320 mg, 0.92 mmol) synthesized in Reference Synthesis Example 71, (diethylamino)sulfur trifluoride (295 mg, 1.84 mmol) was added at 0° C. and the resultant solution was stirred at room temperature. After completion of the reaction, the reaction solution was washed with water and saturated sodium bicarbonate aqueous solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain a crude product (240 mg) of the title compound. The crude product was used in the next reaction as it was.

reactant | tert-butyl (3R,4R)-3-(dibenzylamino)-4-hydroxypyrrolidine-1-carboxylate | 0.92 mmol, 320 mg | C(C1=CC=CC=C1)N([C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C23H30N2O3
reactant | (diethylamino)sulfur trifluoride | 1.84 mmol, 295 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 8.7 mL | ClCCl | CH2Cl2
product | tert-Butyl (3R,4R)-3-(dibenzylamino)-4-flouropyrrolidine-1-carboxylate | 240 mg | C(C1=CC=CC=C1)N([C@@H]1CN(C[C@H]1F)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C23H29FN2O2
